Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm overwhelmed" - Benzodiazepine overdose
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old female
with a reported history of depression who was brought in by
ambulance after ingesting ___ 0.5 mg tablets of Ativan in 2
glasses of red wine.  Per nursing report, patient reported SI
upon arrival.  Psychiatry was consulted for a safety assessment. 


Interview with the patient was limited due to the patient's
lethargy. The patient reports to the writer that she took the
Ativan with wine in order to "get high." Denies that it was a
suicide attempt, however does state that she has been feeling
overwhelmed.  She does not report any particular stressor that
happened today, but states that her son is terminally ill and 
she
is his caretaker, which greatly contributes to her feeling
overwhelmed.  She appears unconcerned with the dangerousness of
her overdose, stating, "life happens and then you die."  

Endorses depression and anxiety, which have increased over the
past year.  She states that she started seeing her therapist, 
Dr.
___, about 8 months ago.  She states that they have
been talking a lot about past traumas, which she has found very
difficult.  She says that she feels like he was trying to give
her "tough love" and she "did not handle it well."  She states
that she started seeing the therapist with her now ex-husband 
for
marriage counseling.  

The patient reports being recently widowed, which is an
additional stressor.  

Psychiatric ROS:
Depression - endorses difficultly concentrating; denies symptoms
including hopelessness, guilt, fatigue, changes in appetite, and
sleep disturbances.
Psychosis - denies AVH
Anxiety - reports anxiety with a remote history of panic attacks 


 
Past Medical History:
Past Medical History 
==============================
Patient denies any current medical issues.

Past Psychiatric History
==============================
Diagnosis: unclear; patient reports depression anxiety
Hospitalizations: denies
Current treaters and treatment: therapist - Dr. ___ and ECT trials: fluoxetine 20 mg, Ativan 0.5 mg ___
tablets BID PRN, Adderall 15 mg daily
Self-injury/Suicide attempts: denies
Access to weapons: denies access to guns
 
Social History:
___
Family History:
Patient reports that mother had significant mental health 
problems, possibly bipolar or borderline personality disorder, 
but was not diagnosed or treated. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
*VS:  BP: 140/80  HR: 85  temp:  98.2  resp: 16 O2 sat: 99% RA  
 
Neurological:  
 *station and gait: deferred
 *tone and strength: Patient moves all 4 extremities
symmetrically, full apparent strength
 cranial nerves: CN II-XII grossly normal 
 abnormal movements: no tics, tremors, evidence of EPS
 frontal release: not assessed 

Cognition: 
 Wakefulness/alertness: lethargic but responsive to questions
 *Attention (MOYB): lists days of week backwards correctly 
except
skips ___
 *Orientation: oriented x3 (self, location and date) 
 Executive function (go-no go, Luria, trails, FAS): not assessed 

 *Memory: appears intact to recent and remote events
 *Fund of knowledge:  average - able to name president of the ___
 Calculations:  correctly states 7 quarters in $1.75
 Abstraction:  train/bicycle = "loved by boys"
 Visuospatial: no gross deficits 
 *Speech: normal tone, volume, rate and prosody
 *Language: fluent ___ 
 
Mental Status:
Appearance: No apparent distress, appears stated age, adequately
groomed
Behavior: Calm, cooperative, frequently closes eyes, no
psychomotor agitation or retardation
Mood and Affect: "good here but tense at home" / dysthymic,
constricted
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies HI/AH/VH, denies SI (however reported SI
to nursing), no evidence of delusions or paranoia
Judgment and Insight: poor/poor

DISCHARGE PHYSICAL EXAM 
Vital Signs: T: 98.1 BP: 113/60 HR: 71 RR: 16 O2sat: 98% RA
Neurological:
    *station and gait: normal steady gait and normal arm swing
    *tone and strength: grossly normal, moves all extremities
freely against gravity
    cranial nerves: grossly intact
    abnormal movements: none observed
  *Appearance: Well groomed petite woman, appears slightly
younger than stated age, dressed in same coordinated athletic 
clothing that she wore yesterday
  Behavior: cooperative with interview, good eye contact, mild
fidgeting with hands throughout
  *Mood and Affect: "pretty good" congruent, and largely 
euthymic, full range and normal mobility
  *Thought process: linear and goal directed, no LOA
  *Thought Content: denies SI or intent, denies HI, denies AVH, 
no overt delusions elicited, looking forward to taking son and 
daughter to ___ next week 
  *Judgment and Insight: limited/limited insight into how her 
cognitive distortions affect her mood/anxiety
  Cognition:
    *Attention, *orientation, and executive function: alert and
oriented, attends to interview without apparent difficulty
    *Memory: grossly intact to recent and remote events
    *Fund of knowledge: appears average
    *Speech: occasionally quiet, but largely normal rate, 
rhythm,
volume and prosody
    *Language: Fluent ___ speaker without errors

 
Pertinent Results:
___ 03:34AM   COMMENTS-GREEN TOP/
___ 03:34AM   K+-4.9
___ 03:13AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:13AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 03:05AM URINE  HOURS-RANDOM
___ 03:05AM URINE  HOURS-RANDOM
___ 03:05AM URINE  HOURS-RANDOM
___ 03:05AM URINE  UHOLD-HOLD
___ 03:05AM URINE  GR HOLD-HOLD
___ 03:05AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS* oxycodn-NEG mthdone-NEG
___ 12:45AM   GLUCOSE-81 UREA N-9 CREAT-0.6 SODIUM-140 
POTASSIUM-5.5* CHLORIDE-104 TOTAL CO2-23 ANION GAP-19
___ 12:45AM   estGFR-Using this
___ 12:45AM   ASA-NEG ETHANOL-89* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:45AM   WBC-9.5 RBC-4.42 HGB-13.4 HCT-38.6 MCV-87 
MCH-30.3 MCHC-34.7 RDW-12.9 RDWSD-40.9
___ 12:45AM   NEUTS-51.5 ___ MONOS-5.8 EOS-1.8 
BASOS-0.7 IM ___ AbsNeut-4.87 AbsLymp-3.79* AbsMono-0.55 
AbsEos-0.17 AbsBaso-0.07
___ 12:45AM   PLT COUNT-___. LEGAL & SAFETY:  
Patient arrived on the unit on a Section 12a, she declined to 
sign in voluntarily, and was admitted on a Section 12b, which 
was her status throughout her stay. She was also placed on 15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC: ___ is a ___ year old female with history 
of childhood trauma, borderline personality disorder traits who 
was brought in after taking an overdose of Ativan with wine that 
she states was not a suicide attempt. Her presentation is most 
consistent with acting out in the context of previously 
diagnosed personality disorder, although unspecified depressive 
disorder remains on the differential at this time. Home 
fluoxetine 20mg was not re-started as her PCP had held the 
medication in the setting of worsening depressive symptoms. Home 
Adderall 15mg was also held as she had not been taking it in the 
two days leading up to admission. Patient remained in good 
behavioral control throughout her stay on the unit, and at the 
time of discharge reported that her mood was better. She denied 
suicidal ideation throughout her inpatient stay and at 
discharge.
#) Follow-up with PCP before ___ fluoxetine 20mg daily 
#) Follow-up with PCP before ___ 15mg 

3. MEDICAL
#)Chronic hives: Patient was continued on her home Zyrtec 10mg 
BID PRN during her stay.

#) Migraine headache: Patient was continue home sumatriptan 50mg 
daily during her stay. She had one migraine which responded 
incompletely to this treatment, for which she was given an 
additional dose of ibuprofen with good effect 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit, but she 
declined to participate in these activities. She was however 
pleasant and friendly on the floor when she chose to interact, 
and played guitar for peers the day prior to discharge.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT: Collateral 
information was obtained from ex-husband, PCP, and therapist 
(___). 

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
questionable intentional overdose on Ativan in the setting of 
being overwhelmed by life stressors, including son with epilepsy 
and autism, daughter with heroin addition, and recent death of 
her ex-husband.  Their static factors noted at that time include 
Caucasian race, age, marital status, the presence of a 
concurrent personality disorder. The modifiable risk factors 
were also addressed during this hospitalization. We discussed 
her coping skills and how best to deal with feelings of being 
overwhelmed. Finally, the patient is being discharged with many 
protective risk factors, help-seeking nature, future-oriented 
viewpoint, sense of responsibility to family, children in the 
home, and lack of current suicidal ideation or plan.  Overall, 
based on the totality of our assessment at this time, the 
patient is not at an acutely elevated risk of self-harm nor 
danger to others. 

Our Prognosis of this patient is minimally guarded and dependent 
on her continued engagement with intense outpatient therapy to 
address limited coping skills, poor distress tolerance, and 
cognitive distortions that lead her to exaggerate facts and 
subsequently become overwhelmed. For example, this propensity 
for distortion leads her to believe that her son is terminally 
ill when in fact he has autism and epilepsy - neither of which 
are terminal diagnoses. She understands that her prior history 
of trauma and unprocessed grief contribute to her low mood and 
limited coping mechanisms and wants to work on this through 
therapy. She will have close follow-up with her PCP to discuss 
medication management and close follow-up with therapist to 
continue to process grief and prior trauma history. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 20 mg PO DAILY 
2. LORazepam 0.5-1 mg PO BID:PRN anxiety 
3. Amphetamine-Dextroamphetamine 15 mg PO BID 
4. Sumatriptan Succinate 50 mg PO DAILY:PRN migraine 
5. Cetirizine 10 mg PO BID:PRN Hives 

 
Discharge Medications:
1.  Amphetamine-Dextroamphetamine 15 mg PO BID  - discuss with 
PCP
2.  Cetirizine 10 mg PO BID:PRN Hives  
3.  Sumatriptan Succinate 50 mg PO DAILY:PRN migraine  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder, borderline personality traits

 
Discharge Condition:
Mental Status: Alert, oriented, and interactive. Clear and 
coherent. 
Ambulatory Status: Ambulatory - independent

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___